US05773448
3-Ethyl-1-(2-hydroxyethyl)-3-methyl-1,3-dihydro-2H-indol-2-one:
Prepared from 3-ethyl-3-methyl-1,3-dihydro-2H-indol-2-one (prepared by the method of Endler and Becker; Organic Syntheses Coll. vol. 4 page 657) and 2-(2-chloroethoxy) tetrahydro-2H-pyran.

reactant | 3-ethyl-3-methyl-1,3-dihydro-2H-indol-2-one | C(C)C1(C(NC2=CC=CC=C12)=O)C | C11H13NO
reactant | 2-(2-chloroethoxy) tetrahydro-2H-pyran | ClCCOC1OCCCC1 | C7H13ClO2
product | 3-Ethyl-1-(2-hydroxyethyl)-3-methyl-1,3-dihydro-2H-indol-2-one | C(C)C1(C(N(C2=CC=CC=C12)CCO)=O)C | C13H17NO2
